US06518264B2
The operation is carried out under the conditions described in Example 124 starting with 150 mg of activated 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid on TFP resin (165 μM) and 0.033 cm3 of N,N-dimethyl-1,3-propanediamine. 52 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-(3-dimethylaminopropyl)benzamide are thus obtained in the form of a white powder [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): 1.65 (mt, 2H), 2.18 (s, 6H), from 2.20 to 2.35 (mt, 2H), 2.98 (s, 3H), from 3.25 to 3.45 (mt, 2H), 3.82 (mt, 2H), 4.23 (mt, 2H), 4.80 (s, 1H), 7.36 (d, J=8.5 Hz, 4H), 7.46 (d, J=8.5 Hz, 4H), from 7.50 to 7.60 (mt, 2H), 7.83 (broad s, 1H), 7.86 (broad d, J=8 Hz, 1H), 8.57 (t, J=5.5 Hz, 1H)].

reactant | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid | 150 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C25H21Cl2NO4S
reactant | N,N-dimethyl-1,3-propanediamine | 0.033 cm3 | CN(CCCN)C | C5H14N2
product | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-(3-dimethylaminopropyl)benzamide | 52 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)NCCCN(C)C)C=CC1)C1=CC=C(C=C1)Cl | C30H33Cl2N3O3S
